US04122186
(1) Ethyl 4-amino-benzamidoacetate
17.6 g (0.07 mol) of ethyl 4-nitro-benzamidoacetate dissolved in 250 ml of ethanol are hydrogenated in the presence of a catalyst (2 g of palladium on charcoal); the catalyst is filtered off, the filtrate is evaporated to dryness in vacuo, the residue is taken up in 100 ml of diisopropyl ether and the product is filtered off. 15 g (87% yield) of the stated product are obtained. Melting point: 93°-94° C.

reactant | ethyl 4-nitro-benzamidoacetate | 0.07 mol, 17.6 g | [N+](=O)([O-])C1=CC=C(C(=O)NCC(=O)OCC)C=C1 | C11H12N2O5
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | Ethyl 4-amino-benzamidoacetate | 15 g, 87% yield | NC1=CC=C(C(=O)NCC(=O)OCC)C=C1 | C11H14N2O3
